US08461329B2
To a solution of 4-chlorobenzyl alcohol (4.10 g) in N,N-dimethylformamide (110 ml), sodium hydride (60 to 72%, 952 mg) was added in an ice bath, and the mixed solution was stirred for 30 min. Then, to the resulting solution, 4-(bromomethyl)benzoic acid methyl ester (5.00 g) was added, and the mixed solution was stirred at room temperature for three hours. To the resulting solution, ethyl acetate was added. The resulting solution was washed with water and with a saturated saline solution, sequentially, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to remove the solvent. The resulting crude product was purified by column chromatography (neutral OH type silica gel, ethyl acetate/n-hexane=5 to 9%) to give methyl 4-{[2-(4-chlorophenyl)ethoxy]methyl}benzoate (5.25 g).

reactant | 4-chlorobenzyl alcohol | 4.10 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | sodium hydride | 952 mg | [H-].[Na+]
reactant | 4-(bromomethyl)benzoic acid methyl ester | 5.00 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | methyl 4-{[2-(4-chlorophenyl)ethoxy]methyl}benzoate | 5.25 g | ClC1=CC=C(C=C1)CCOCC1=CC=C(C(=O)OC)C=C1 | C17H17ClO3
